US09163021B2
2-(4-chlorophenyl)-N-(5-{[7-fluoro-1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide
Prepared according to Method M (Example 206) using 4-chlorophenylacetic acid and (5-aminopyridin-3-yl)[7-fluoro-1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone (Enantiomer 1, Preparation 26).

reactant | 4-chlorophenylacetic acid | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | (5-aminopyridin-3-yl)[7-fluoro-1-(2-hydroxy-1-methylethyl)-1H-pyrrolo[3,2-c]pyridin-3-yl]methanone | NC=1C=C(C=NC1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)C | C16H15FN4O2
product | 2-(4-chlorophenyl)-N-(5-{[7-fluoro-1-(1-hydroxypropan-2-yl)-1H-pyrrolo[3,2-c]pyridin-3-yl]carbonyl}pyridin-3-yl)acetamide | ClC1=CC=C(C=C1)CC(=O)NC=1C=NC=C(C1)C(=O)C1=CN(C2=C1C=NC=C2F)C(CO)C | C24H20ClFN4O3
